US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.25 g, 5.63 mmol), 4-methoxy-3-[2-(4-morpholinyl)ethoxy]benzaldehyde (1.64 g), and xylenes (12 ml) was heated at 160° C. overnight. Additional aldehyde (0.5 g) was added and the mixture was refluxed until complete, then cooled to room temperature. The solvent was stripped, the residue was slurried with EtOAc and the product was collected by filtration and combined with the product from a similar experimental run. The combined product was recrystallized from CH3CN to afford 1-cyclopentyl-3-ethyl-6-[4-methoxy-3-[2-(4-morpholinyl)ethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one, m.p. 205°-206° C.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 5.63 mmol, 1.25 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 4-methoxy-3-[2-(4-morpholinyl)ethoxy]benzaldehyde | 1.64 g | COC1=C(C=C(C=O)C=C1)OCCN1CCOCC1 | C14H19NO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-cyclopentyl-3-ethyl-6-[4-methoxy-3-[2-(4-morpholinyl)ethoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=C(C=C2)OC)OCCN2CCOCC2)CC | C25H33N5O4
